US08859566B2
To a solution of 2-Chloro-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-1,7-dihydro-purin-6-one (0.1 g, 0.239 mmol) in dioxane (5 ml) under argon was added ethyl magnesium bromide (0.05 g, 1.146 mmol, 1M solution) and 1M zinc chloride (0.031 g, 2.39 mmol, 1M). To this solution Pd(PPh3)4 (0.026 g, 0.0239 mmol) was added. The reaction mixture was heated at 50° C. for overnight. The reaction mixture was filtered through celite pad and the solvents were removed under reduced pressure. The residue was purified by column chromatography to obtain 2-Ethyl-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-1,7-dihydro-purin-6-one (0.01 g, 10%) as a white solid.

reactant | 2-Chloro-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-1,7-dihydro-purin-6-one | 0.239 mmol, 0.1 g | ClC=1N(C(C=2NC(=NC2N1)C=1C=NN(C1)CC1=CC(=CC=C1)C(F)(F)F)=O)CCC | C19H16ClF3N6O
reactant | ethyl magnesium bromide | 1.146 mmol, 1M, 0.05 g | C(C)[Mg]Br
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | zinc chloride | 2.39 mmol, 1M, 0.031 g | [Cl-].[Zn+2].[Cl-]
catalyst | Pd(PPh3)4 | 0.0239 mmol, 0.026 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Ethyl-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-1,7-dihydro-purin-6-one | 0.01 g, 10% | C(C)C=1N(C(C=2NC(=NC2N1)C=1C=NN(C1)CC1=CC(=CC=C1)C(F)(F)F)=O)CCC | C21H21F3N6O
